US07423158B2
A mixture of N′-[(1E)-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)methylene]-4-methylbenzenesulfonohydrazide (0.67 mg, 1.52 mmol) in THF was treated with triethyl borane (1.0 M in THF, 1.52 mL, 1.52 mmol), stirred for 2 minutes, treated with NaOH (2.5 N, 0.61 mL, 1.52 mmol), refluxed for 2 hours, cooled to room temperature, poured into water and extracted with EtOAc. The organic extracts were combined, dried over MgSO4 and concentrated in vacuo. The resultant residue was purified on silica gel (ISCO) using hexanes/EtOAc (50/1) as the eluting solvents to give 1-{[4-(difluoromethoxy)phenyl]ethynyl}-3-propylbenzene as a clear oil (386 mg, 89% yield), MS m/e (M+H)+ 286; 1H NMR (400 MHz, DMSO-d6) 0.85 (t, J=7.32 Hz, 3H), 1.57 (m, 2H), 2.6 (t, J=7.32 Hz, 2H), 7.2 (m, 3H), 7.35-7.45 (m, 4H), 7.58 (d, J=8.79 Hz, 2H).

reactant | N′-[(1E)-(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)methylene]-4-methylbenzenesulfonohydrazide | 1.52 mmol, 0.67 mg | FC(OC1=CC=C(C=C1)C#CC=1C=C(C=CC1)\C=N\NS(=O)(=O)C1=CC=C(C=C1)C)F | C23H18F2N2O3S
reactant | triethyl borane | 1.52 mmol, 1.0 M, 1.52 mL | C(C)B(CC)CC | C6H15B
reactant | NaOH | 1.52 mmol, 2.5 N, 0.61 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-{[4-(difluoromethoxy)phenyl]ethynyl}-3-propylbenzene | 386 mg, 89% yield | FC(OC1=CC=C(C=C1)C#CC1=CC(=CC=C1)CCC)F | C18H16F2O
